US07456200B2
5-(3-Methoxy-phenyl)-3-(4-Methyl-5-thiophen-2-yl-4H-[1,2,4]triazol-3-ylsulfanylmethyl)-[1,2,4]oxadiazole
The title compound was prepared from 3-chloromethyl-5-(3-methoxy-phenyl)-[1,2,4]oxadiazole (50 mg, 0.22 mmol), potassium carbonate (92.4 mg, 0.67 mmol), 4-methyl-5-thiophen-2-yl-4H-[1,2,4]triazole-3-thiol (52.8 mg, 0.27 mmol) in acetonitrile (1 ml) at room temperature. Purification was performed by SPE (flash) chromatography using 30-40% ethyl acetate in hexanes afforded 76 mg (90%) of the title compound as a white solid. 1H NMR (CDCl3), δ (ppm): 7.68 (d, 1H), 7.57 (t, 1H), 7.49 (m, 2H), 7.41 (t, 1H), 7.15 (m, 2H), 4.53 (s, 2H), 3.85 (s, 3H), 3.72 (s, 3H). LC-MS (M+1)+ 386.3.

reactant | 3-chloromethyl-5-(3-methoxy-phenyl)-[1,2,4]oxadiazole | 0.22 mmol, 50 mg | ClCC1=NOC(=N1)C1=CC(=CC=C1)OC | C10H9ClN2O2
reactant | potassium carbonate | 0.67 mmol, 92.4 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methyl-5-thiophen-2-yl-4H-[1,2,4]triazole-3-thiol | 0.27 mmol, 52.8 mg | CN1C(=NN=C1C=1SC=CC1)S | C7H7N3S2
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | 5-(3-Methoxy-phenyl)-3-(4-Methyl-5-thiophen-2-yl-4H-[1,2,4]triazol-3-ylsulfanylmethyl)-[1,2,4]oxadiazole | 76 mg, 90% | COC=1C=C(C=CC1)C1=NC(=NO1)CSC1=NN=C(N1C)C=1SC=CC1 | C17H15N5O2S2
